US06884821B1
7.0 g of 1-(methoxymethyl)-3-(trifluoromethyl)benzene was dissolved in 300 ml anhydrous diethyl ether, and 19 ml n-butyl lithium (2.5 M solution in hexane) was added dropwise at −78° C. The reaction mixture was stirred at room temperature for 3 hours and cooled again at −78° C., and 10 ml N,N-dimethylformamide was added. The reaction solution was returned to room temperature, poured into water, extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (9:1), 5.0 g of 1-(methoxymethyl)-3-(trifluoromethyl)benzaldehyde was obtained as a reddish orange oil.

reactant | 1-(methoxymethyl)-3-(trifluoromethyl)benzene | 7.0 g | COCC1=CC(=CC=C1)C(F)(F)F | C9H9F3O
reactant | n-butyl lithium | 2.5 M, 19 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-(methoxymethyl)-3-(trifluoromethyl)benzaldehyde | 5.0 g | COCC1(C=O)CC(=CC=C1)C(F)(F)F | C10H11F3O2
